US04800224
N-(6-methylpyridine-2-carbaldehyde)-(S)-1-(4-vinylphenyl)-2-phenyl-ethylimine
A solution of 0.54 g (4.5 mmol) of 6-methyl-pyridine-2-carbaldehyde, 1.0 g (4.5 mmol) of (S)-1-(4-vinylphenyl)-2-phenyl-ethylamine and 10 ml of benzene is evaporated down at room temperature and under about 3 kPa. A further 10 ml of benzene are added in order to distill off residual water of reaction together with benzene under about 3 kPa. The process is repeated twice more.

reactant | 6-methyl-pyridine-2-carbaldehyde | 4.5 mmol, 0.54 g | CC1=CC=CC(=N1)C=O | C7H7NO
reactant | (S)-1-(4-vinylphenyl)-2-phenyl-ethylamine | 4.5 mmol, 1.0 g | C(=C)C1=CC=C(C=C1)[C@H](CC1=CC=CC=C1)N | C16H17N
solvent | benzene | 10 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 10 ml | C1=CC=CC=C1 | C6H6
product | N-(6-methylpyridine-2-carbaldehyde)-(S)-1-(4-vinylphenyl)-2-phenyl-ethylimine | C(=C)C1=CC=C(C=C1)[C@H](CC1=CC=CC=C1)N=CC1=NC(=CC=C1)C | C23H22N2
